US08232288B2
Stage (viii): 9-Pyridin-4-Yloxy-3-azaspiro[5.5]undecane dihydrochloride
tert-Butyl 9-(pyridin-4-yloxy)-3-azaspiro[5.5]undecane-3-carboxylate (1 g, 2.886 mmol) was dissolved in methanol (2 ml), hydrogen chloride in methanol (1.25 mol/l, 11.5 ml) was added and the mixture was refluxed for 30 min. The solvent was removed in vacuo and the residue was dissolved in a small amount of ethanol. Acetone (approx. 25 ml) was then added, the mixture was stirred at 0° C. for 30 min and the solid formed was finally filtered off with suction. Yield: 0.96 g (>99%)

reactant | tert-Butyl 9-(pyridin-4-yloxy)-3-azaspiro[5.5]undecane-3-carboxylate | 2.886 mmol, 1 g | N1=CC=C(C=C1)OC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C20H30N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 1.25 mol/l, 11.5 ml | CO | CH4O
product | 9-Pyridin-4-Yloxy-3-azaspiro[5.5]undecane dihydrochloride | Cl.Cl.N1=CC=C(C=C1)OC1CCC2(CCNCC2)CC1 | InChI=1S/C15H22N2O.2ClH/c1-5-15(7-11-17-12-8-15)6-2-13(1)18-14-3-9-16-10-4-14;;/h3-4,9-10,13,17H,1-2,5-8,11-12H2;2*1H
